US05382379
4-(3',4',5'-Trifluorophenyl)ethoxycarbonylmethylenecyclohexane (18.3 g) was dissolved in ethanol (100 ml), followed by adding Pd/C (5%, 5 g), stirring the mixture, hydrogenating in a hydrogen gas atmosphere until completion of absorption of a hydrogen, filtering off the catalyst after completion of the reaction, and concentrating the solvent under reduced pressure, to obtain 4 -(3',4',5'-trifluorophenyl)ethoxycarbonylmethylcyclohexane (17.2 g).

reactant | 4-(3',4',5'-Trifluorophenyl)ethoxycarbonylmethylenecyclohexane | 18.3 g | FC=1C=C(C=C(C1F)F)CCOC(=O)C=C1CCCCC1 | C16H17F3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 4 -(3',4',5'-trifluorophenyl)ethoxycarbonylmethylcyclohexane | 17.2 g | FC=1C=C(C=C(C1F)F)CCOC(=O)CC1CCCCC1 | C16H19F3O2
